US06159904
A 50-ml round-bottomed flask was charged with 0.51 g (1.72 mmol) of 6-carboxy-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide, 0.21 g (1.88 mmol) of 1-ethyl-5-hydroxypyrazole and 5 ml of t-amyl alcohol, and while the mixture was stirred at room temperature, a solution of 0.42 g (2.04 mmol) of N,N'-dicyclohexylcarbodiimide in 2 ml of t-amyl alcohol was added. The mixture was further stirred at room temperature for 1 hour, and 0.18 g (1.30 mmol) of potassium carbonate was added to the reaction mixture. The mixture was heated at 80~90° C. for 8 hours. The solvent was distilled off under reduced pressure, and ethyl acetate and a 2 wt % sodium carbonate aqueous solution were added to the residue. An insoluble solid was removed by filtration. The mixture was separated into two phases, and an aqueous layer was neutralized and acidified with a 5 wt % hydrochloric acid aqueous solution, and a precipitated solid was extracted with ethyl acetate. An organic layer was washed with diluted hydrochloric acid and with a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to give 0.55 g (yield 82%) of 6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonyl-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide in the form of a brown solid. This product was recrystallized from mixed solvents of ethyl acetate and n-hexane to give 0.36 g (yield 54%) of a white solid.

reactant | 6-carboxy-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide | 1.72 mmol, 0.51 g | C(=O)(O)C=1C(=C2C(C(CS(C2=C(C1)C)(=O)=O)(C)C)=O)C | C14H16O5S
reactant | 1-ethyl-5-hydroxypyrazole | 1.88 mmol, 0.21 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | N,N'-dicyclohexylcarbodiimide | 2.04 mmol, 0.42 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | potassium carbonate | 1.30 mmol, 0.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | t-amyl alcohol | 2 ml | C(C)(C)(CC)O | C5H12O
solvent | t-amyl alcohol | 5 ml | C(C)(C)(CC)O | C5H12O
product | 6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonyl-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide | 0.55 g, yield 82% | C(C)N1N=CC(=C1O)C(=O)C=1C(=C2C(C(CS(C2=C(C1)C)(=O)=O)(C)C)=O)C | C19H22N2O5S
